### PR TITLE
Specify and verify : `MessageType::try_from` (TryFrom<u8> impl) in `v1/chunked/states/serialize.rs`

### LINKED ISSUE #311: Specify and verify : `spqr::v1::chunked::states::serialize::encode_varint` in `v1/chunked/states/serialize.rs`
Parent: #306

### PR DESCRIPTION
**Pull request by Zhang-Liao**
Closes #311.

## Summary

Specifies and verifies `MessageType::try_from` (`TryFrom<u8> for MessageType` in
`src/v1/chunked/states/serialize.rs`) over the **full** `u8` input range:

- For `value ≤ 6` the result is `Ok` of the variant with that discriminant
  (`0 ↦ None`, `1 ↦ Hdr`, `2 ↦ Ek`, `3 ↦ EkCt1Ack`, `4 ↦ Ct1Ack`, `5 ↦ Ct1`, `6 ↦ Ct2`),
  i.e. `try_from` is a left inverse of `From<MessageType> for u8`.
- For `value > 6` the result is `Err "Expected a number between 0 and 6"`.
- The call always succeeds (total-correctness triple, no precondition).

## Modeling `str::to_owned` (zero new axioms)

The error branch calls `Str.Insts.AllocBorrowToOwnedString.to_owned`, previously an **opaque
axiom** in `SrcTranslated/FunsExternal.lean`, which made the error branch unprovable. This PR
replaces the axiom with a **real definition** (following the existing precedent of `concat`,
`truncate`, `as_slice` in that file): decode the slice's bytes as UTF-8. Since Lean ≥ 4.31 a
`String` is literally a `ByteArray` of valid UTF-8 bytes bundled with the validity proof, so
the definition is

```lean
def to_owned : Str → Result String :=
  fun s =>
    let bytes : ByteArray := ⟨⟨s.val.map (fun b => UInt8.ofNat b.val)⟩⟩
    if h : bytes.IsValidUTF8 then ok ⟨bytes, h⟩ else fail .panic
```

which mirrors Rust's `String::from_utf8_unchecked(self.as_bytes().to_owned())` (the `fail`
branch is unreachable for the guaranteed-valid-UTF-8 `&str`, and in particular on anything
built by `toStr`, e.g. the string literals in the extracted code). On top of it we **prove**

- `to_owned_eq : to_owned (toStr s h) = ok s`
- `@[step] to_owned_spec : to_owned (toStr s h) ⦃ result => result = s ⦄`
- helper `ByteArray.toList_eq_data_toList` (bridge lemma missing from core)

Net effect: the axiom count in `FunsExternal.lean` goes **down** by one and no new axiom is
introduced. This also unblocks the error branches of `Version::try_from` and
`Direction::try_from`, which share the same shape.

## Proof notes

- `split` on the extracted 8-way `match` can accidentally split the `match` in the
  postcondition; the proof first `generalize`s the expected result, then splits.
- The default arm reduces the postcondition's Nat-literal `match` via
  `∃ k, bv.toNat = k + 7`, under which `k + 7` reduces definitionally through the literal
  patterns.

## Checks

- `lake build Spqr` ✅ (full rebuild, 2417 jobs)
- `lake exe runLinter Spqr` ✅

### CODE REVIEW

File: SrcTranslated/FunsExternal.lean [hunk 1]
```diff
@@ -1448,10 +1448,59 @@ theorem Slice.Insts.AllocSliceConcatTVec.concat_shared_id_spec
...
+      simp only [ByteArray.get!]
+      rw [getElem!_pos, Array.getElem_toList]
+    | case2 i r h =>
+      rw [List.drop_eq_nil_of_le (Nat.le_of_not_lt h), List.append_nil]
+  unfold ByteArray.toList
+  rw [loop_eq 0 [] (Nat.zero_le _), List.drop_zero, List.reverse_nil, List.nil_append]
+
+/-- **Spec theorem for `str::to_owned`** (equational form): on a string slice built from a Lean
+`String` by `toStr`, the call succeeds and returns that same string. -/
+private lemma Str.Insts.AllocBorrowToOwnedString.to_owned_eq (s : String)
```
Comment (truonghoangle) [inline SrcTranslated/FunsExternal.lean]: Why do you need to write this lemma instead of putting the proof directly into the spec theorem? Wouldn't it be more applicable later?

Comment (Zhang-Liao) [reply SrcTranslated/FunsExternal.lean]: Thanks for the suggestion! I have moved it inside the specification theorem.

**Review by truonghoangle — APPROVED** [review]
